* C:\Users\gabry\eletronica1\resources\draft\relatorio4\parte2\Draft2.asc
V1 N001 0 9
R1 N001 VG 10k
R2 VG 0 10k
R3 N001 VD 2k
R4 VS 0 1k
XU1 VD VG VS N7002
.op
*---------- 2N7002 Spice Model ----------
.SUBCKT N7002 10 20 30
*     TERMINALS:  D  G  S
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006
RD 10 1 0.976
RS 30 3 0.001
RG 20 2 160.6
CGS 2 3 2E-011
EGD 12 0 2 1 1
VFB 14 0 0
FFB 2 1 VFB 1
CGD 13 14 5.9E-011
R1 13 0 1
D1 12 13 DLIM
DDG 15 14 DCGD
R2 12 15 1
D2 15 0 DLIM
DSD 3 10 DSUB
.MODEL NMOS NMOS LEVEL = 3 VMAX = 1E+006 ETA = 0 VTO = 2.154
+ TOX = 6E-008 NSUB = 1E+016 KP = 0.4654 KAPPA = 1E-015 U0 = 400
.MODEL DCGD D CJO = 1.2E-011 VJ = 0.6 M = 0.6
.MODEL DSUB D IS = 6.808E-010 N = 1.576 RS = 0.1408 BV = 72 CJO = 8E-012 VJ = 0.8 M = 0.6474
.MODEL DLIM D IS = 0.0001
.ENDS
*Diodes N7002 Spice Model v0 Last Revised 2017/2/9
.lib C:\Users\gabry\Documents\LTspiceXVII\N7002.txt
.backanno
.end
